US04000143
a. 2-(β-Methyl-2-nitrostyryl)pyridine
A mixture of o-nitrobenzaldehyde (127 g., 0.84 mole), 2-ethylpyridine (90 g., 0.84 mole) and acetic anhydride (171 g., 1.68 mole) is heated at reflux for 24 hr. Excess acetic anhydride is evaporated in vacuo and the residue poured into 500 ml. of water. The mixture is adjusted to pH 11 with 50% NaOH providing a precipitate which is collected and dried. Crystallization from isopropyl ether yields 136.7 g. (67%) of 2(-β-methyl-2-nitrostyryl)-pyridine, m.p. 62° -64° C. which, after a second crystallization, is analytically pure.

reactant | o-nitrobenzaldehyde | 0.84 mole, 127 g | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
reactant | 2-ethylpyridine | 0.84 mole, 90 g | C(C)C1=NC=CC=C1 | C7H9N
reactant | acetic anhydride | 1.68 mole, 171 g | C(C)(=O)OC(C)=O | C4H6O3
product | 2-(β-Methyl-2-nitrostyryl)pyridine | CC(=CC1=NC=CC=C1)C1=C(C=CC=C1)[N+](=O)[O-] | C14H12N2O2
